US08304425B2
A mixture of 3-(2-{tert-butoxycarbonyl-[2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-ethyl]-amino}-2-oxo-ethyl)-indole-1-carboxylic acid tert-butyl ester (1.04 g, 1.82 mmol) and DBU (0.27 mL, 1.91 mmol) in anhydrous DMF (20 mL) was stirred at 110° C. for 2 h. The mixture was cooled and evaporated. The residue was purified by silica gel column chromatography (eluent: 4/1 then 3/1 hexane/EtOAc) to give 3-[1-tert-butoxycarbonyl-4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-2,5-dihydro-1H-pyrrol-3-yl]-indole-1-carboxylic acid tert-butyl ester as a yellow foamy solid (0.64 g, 64%). 1H NMR (400 MHz, DMSO-d6) δ: 8.13 (d, J=8.8 Hz, 1H), 7.72 (s, 1H), 7.47 (s, 1H), 7.30 (m, 1H), 7.05 (m, 3H), 6.89 (m, 2H), 5.00 (s, 2H), 4.03 (t, J=5.6 Hz, 2H), 2.88 (t, J=5.6 Hz, 2H), 2.03 (m, 2H), 1.65 (s, 9H), 1.54 (s, 9H). LCMS: m/e 554.21 [M+H].

reactant | 3-(2-{tert-butoxycarbonyl-[2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-ethyl]-amino}-2-oxo-ethyl)-indole-1-carboxylic acid tert-butyl ester | 1.82 mmol, 1.04 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC(=O)N(CC(=O)C1=CN2CCCC3=CC=CC1=C23)C(=O)OC(C)(C)C | C33H37N3O6
reactant | DBU | 1.91 mmol, 0.27 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-[1-tert-butoxycarbonyl-4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-2,5-dihydro-1H-pyrrol-3-yl]-indole-1-carboxylic acid tert-butyl ester | 0.64 g, 64% | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=1C(N(CC1C1=CN2CCCC3=CC=CC1=C23)C(=O)OC(C)(C)C)=O | C33H35N3O5
